US04652556
Preparation of N-(2-Cyano-2-propyl)-2-methylthioethylsulfonamide
To a solution of 8.2 g (0.0470 moles) N-(2-cyano-2-propyl)-vinylsulfonamide (the product of Example 26) in 30 ml methanol, 32 ml of a 1.5M solution of methanethiol was added over 5 minutes. A small amount (a few mg) of potassium carbonate was added to the mixture and it was stirred overnight at room temperature. The reaction mixture was warmed to about 30° C., more methanethiol/methanol solution (about 10 ml) was added, and the resulting mixture was stirred at 30° C. for four hours. The mixture was acidified with 10% hydrochloric acid and then evaporated to afford 10.0 g of a pale yellow oil. The oil was dissolved in methylene chloride, filtered and evaporated to dryness. The residue was purified by flash chromatography with 30% hexane in ethyl acetate to give 9.3 g of the above-identified product, as a colorless oil which crystallized upon standing.

reactant | N-(2-cyano-2-propyl)-vinylsulfonamide | 0.0470 moles, 8.2 g | C(#N)C(C)(C)NS(=O)(=O)C=C | C6H10N2O2S
reactant | methanethiol | CS | CH4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanethiol methanol | about 10 ml | CS.CO
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | N-(2-Cyano-2-propyl)-2-methylthioethylsulfonamide | 10.0 g | C(#N)C(C)(C)NS(=O)(=O)CCSC | C7H14N2O2S2
